US06518423B1
Ethyl [4-(tert-butoxycarbonyl)aminopiperidin-1-yl]acetate
2 g of 4-(tert-butoxycarbonyl)aminopiperidine was dissolved in 50 ml of dichloromethane. After adding 1.6 ml of triethylamine and 1.2 ml of ethyl bromoacetate, the resulting mixture was stirred at room temperature for 5 hours. The reaction mixture was washed with water and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) to thereby give 3.0 g of the title compound as pale yellow crystals.

reactant | 4-(tert-butoxycarbonyl)aminopiperidine | 2 g | C(C)(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl bromoacetate | 1.2 ml | BrCC(=O)OCC | C4H7BrO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Ethyl [4-(tert-butoxycarbonyl)aminopiperidin-1-yl]acetate | 3.0 g | C(C)(C)(C)OC(=O)NC1CCN(CC1)CC(=O)OCC | C14H26N2O4
